US08865623B2
A mixture of 4-(5-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (1.0 g, 2.8 mmol), copper(I) iodide (108 mg, 0.57 mmol) and L-proline (33 mg, 0.28 mmol) in an aqueous solution of sodium hydroxide (8.8 ml of a 1N solution) is heated at 200° C. for 2 hours under microwave irradiation. The mixture is cooled to room temperature, poured into 2M aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract is washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The solvent is evaporated under reduced pressure and the residue is purified by column chromatography on silica gel to give 4-(2-ethyl-5-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(5-bromo-2-ethylphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 2.8 mmol, 1.0 g | BrC=1C=CC(=C(C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC | C17H21BrO3
reactant | L-proline | 0.28 mmol, 33 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
catalyst | copper(I) iodide | 0.57 mmol, 108 mg | [Cu]I
product | 4-(2-ethyl-5-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | C(C)C1=C(C=C(C=C1)O)C1C(C(OC(C1=O)(C)C)(C)C)=O | C17H22O4
